US04735952
3-Chloroperbenzoic acid (0.96 g) was slowly added to a stirred solution of 4-[(4-fluorophenyl)thio]piperidine hydrochloride (I.2g) in chloroform (60 ml) under ice-cooling over a period of 5 minutes and the mixture was stirred at the same temperature for 45 minutes. After being treated with sodium bisulfite solution under ice-cooling, the resultant mixture was adjusted to alkaline pH with 20% sodium hydroxide solution. The chloroform layer was separated and the aqueous layer was extracted three times with chloroform. The chloroform layers were combined and dried over magnesium sulfate. After removal of magnesium sulfate, the solution was treated with ethereal hydrochloric acid and concentrated to dryness in vacuo. The powdery residue was washed with isopropanol to give 4-[(4-fluorophenyl)sulfinyl]piperidine hydrochloride (1.10 g) as colourless powser.

reactant | 3-Chloroperbenzoic acid | 0.96 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-[(4-fluorophenyl)thio]piperidine hydrochloride | Cl.FC1=CC=C(C=C1)SC1CCNCC1
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[(4-fluorophenyl)sulfinyl]piperidine hydrochloride | 1.10 g | Cl.FC1=CC=C(C=C1)S(=O)C1CCNCC1 | InChI=1S/C11H14FNOS.ClH/c12-9-1-3-10(4-2-9)15(14)11-5-7-13-8-6-11;/h1-4,11,13H,5-8H2;1H
